US06586617B1
Methoxylamine hydrochloride (0.90 g (10.8 mmol) was suspended in pyridine (2.0 ml). To this, under cooling with ice and with stirring, a solution of 5-chloro-1,3-dimethyl-4-pyrazolesulfonyl chloride (2.29 g (10.0 mmol)) in acetonitrile (2.0 ml) was added dropwise, and the mixture was stirred under cooling with ice for one hour and at room temperature for one hour. Water (50.0 ml) was added to bring about separation of crystals. The crystals were filtered and washed with water, dried, and subjected to silica gel column chromatography with ethyl acetate-hexane (1:1) as eluent to give 1.72 g (72%) of 5-chloro-1,3-dimethyl-N-methoxy-4-pyrazolesulfonamide as white crystals.

reactant | Methoxylamine hydrochloride | Cl.O(C)N
reactant | 5-chloro-1,3-dimethyl-4-pyrazolesulfonyl chloride | 10.0 mmol, 2.29 g | ClC1=C(C(=NN1C)C)S(=O)(=O)Cl | C5H6Cl2N2O2S
reactant | Water | 50.0 ml | O | H2O
solvent | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 2.0 ml | C(C)#N | C2H3N
product | 5-chloro-1,3-dimethyl-N-methoxy-4-pyrazolesulfonamide | 1.72 g, 72% | ClC1=C(C(=NN1C)C)S(=O)(=O)NOC | C6H10ClN3O3S
